US07960409B2
Step 6: 7-(azidomethyl)-4-chloroquinoline-2-carbonitrile
A mixture of 7-(bromomethyl)-4-chloroquinoline-2-carbonitrile (8.46 g, 30 mmol), sodium azide (2.15 g, 33 mmol) in EtOH (300 mL) was heated under reflux for 1 h. The mixture was then cooled to room temperature and evaporated to dryness. The crude material was purified by flash chromatography (eluting solvent: 100% CH2Cl2 to 5% acetone in CH2Cl2) to yield the title compound. 1H NMR (400 MHz, acetone-d6): δ 8.40 (d, 1H), 8.20 (m, 2H), 7.97 (d, 1H), 4.85 (s, 2H).

reactant | 7-(bromomethyl)-4-chloroquinoline-2-carbonitrile | 30 mmol, 8.46 g | BrCC1=CC=C2C(=CC(=NC2=C1)C#N)Cl | C11H6BrClN2
reactant | sodium azide | 33 mmol, 2.15 g | [N-]=[N+]=[N-].[Na+]
solvent | EtOH | 300 mL | CCO | C2H6O
product | 7-(azidomethyl)-4-chloroquinoline-2-carbonitrile | N(=[N+]=[N-])CC1=CC=C2C(=CC(=NC2=C1)C#N)Cl | C11H6ClN5
